US07598249B2
4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyrimidin-4-ylamide
The title compound was prepared from pyrimidin-4-yl-carbamic acid phenyl ester and 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 8.76 (s, 1H), 8.54 (d, J=6.1 Hz, 1H), 7.97 (d, J=5.3 Hz, 1H), 7.65-7.39 (m, 2H), 7.19-7.01 (m, 2H), 4.03-3.55 (m, 6H), 2.91-2.49 (m, 4H).

reactant | pyrimidin-4-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=NC=NC=C1)=O | C11H9N3O2
reactant | 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine | FC1(OC2=C(O1)C=CC(=C2)CN2CCNCC2)F | C12H14F2N2O2
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyrimidin-4-ylamide | N1=CN=C(C=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OC(O2)(F)F)C=C1 | C17H17F2N5O3
